US04323708
Onto the bottom of a cylindrical reactor a chamber is placed which is made of a 100μ-thick foil having the working surface area of 50 cm2. The foil is manufactured of an alloy consisting of 95% by mass of palladium and 5% by mass of rhodium. Hydrogen is continuously fed inside the chamber under the pressure 2.5 atm at the rate of 10 ml/min. Outside the chamber in the reactor there are placed 22 g of 2,4-dinitrophenol, whereafter 250 ml of distilled water are added thereto. The reactor is heated to the temperature of 116° C., pressure inside the reactor is increased to 4 atm; under these conditions the process of hydrogenation is conducted under stirring for 3 hours. Then the reactor is cooled and the precipitated crystals are filtered-off to give 15.2 g of 2,4-diaminophenol. The product is recrystallized from acetone to give 10.3 g of 2,4-diaminophenol with the melting point of 80° C. The yield of 2,4-diaminophenol is 71.6% of the theoretical (i.e. as calculated for the initial 2,4-dinitrophenol).

reactant | Hydrogen | [H][H] | H2
reactant | 2,4-dinitrophenol | 22 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
catalyst | palladium | [Pd] | Pd
catalyst | rhodium | [Rh] | Rh
solvent | water | 250 ml | O | H2O
product | 2,4-diaminophenol | 15.2 g | NC1=C(C=CC(=C1)N)O | C6H8N2O
